US07829560B2
Biphenyl-3-carboxylic acid [4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-amide (Compound B84).
Compound is prepared from 3-bromo-N-[4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-benzamide and phenyl boronic acid according to conditions described in general procedure K. 1H NMR 300 MHz (DMSO-d6) δ 10.4 (s, 1H), 8.4 (s, 1H), 8.2 (m, 1H), 8.05 (d, 1H, J=7.2 Hz), 7.9 (m, 2H), 7.8 (m, 2H), 7.4-7.7 (m, 7H), 7.0 (d, 1H, J=10.1Hz), 4.3 (m, 2H), 3.6 (s, 4H), 2.9 (m, 2H), 2.6 (m, 4H).

reactant | 3-bromo-N-[4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-benzamide | BrC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OCCN2CCOCC2)C=CC1 | C23H23BrN2O3
reactant | phenyl boronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | Biphenyl-3-carboxylic acid [4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-amide | N1(CCOCC1)CCOC1=CC=C(C2=CC=CC=C12)NC(=O)C=1C=C(C=CC1)C1=CC=CC=C1 | C29H28N2O3
